US04010154
A solution of 10 ml of 15% aqueous hydrogen peroxide is added with ice-cooling to a mixture of 1.5 g of 1-(β-methylthioethyl)-5-phenyl-7-chloro-1,3-dihydro-2H-1,4-benzodiazepin-2-one and 20 ml of acetic acid. The resultant mixture is stirred at 0° C for 30 minutes and then at room temperature for 1 hour. The reaction mixture is poured into ice water, basified with ammonia water and extracted with chloroform. The chloroform extracts are combined, dried over anhydrous sodium sulfate, and the solvent is removed under reduced pressure. The residue is allowed to stand to form crystals. Recrystallization from ethylacetate gives 1-(β-methylsulfinylethyl)-5-phenyl-7-chloro-1,3-dihydro-2H-1,4-benzodiazepin-2-one, m.p. 166° - 167° C.

reactant | hydrogen peroxide | 10 ml | OO | H2O2
reactant | 1-(β-methylthioethyl)-5-phenyl-7-chloro-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 1.5 g | CSCCN1C(CN=C(C2=C1C=CC(=C2)Cl)C2=CC=CC=C2)=O | C18H17ClN2OS
reactant | ammonia water | O.N
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 1-(β-methylsulfinylethyl)-5-phenyl-7-chloro-1,3-dihydro-2H-1,4-benzodiazepin-2-one | CS(=O)CCN1C(CN=C(C2=C1C=CC(=C2)Cl)C2=CC=CC=C2)=O | C18H17ClN2O2S
